US05639748
A solution of 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-carboxaldehyde, prepared as in Example 12, (2.2 g, 10 mmol) in toluene (15 ml) was treated with triphenylphosphoranylideneacetaldehyde (4.4 g, 14 mmol) and stirred at 100° C. for 24 hours. The mixture was concentrated and the residue was triturated with ethyl ether-petroleum ether (4:1) and the supernatant concentrated to give 3 g of 5-(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl)-2,4-pentadienal.

reactant | 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine-6-carboxaldehyde | ClC1=CC=C(C2=C1CCN(CC2)C)C=O | C12H14ClNO
reactant | triphenylphosphoranylideneacetaldehyde | 14 mmol, 4.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl)-2,4-pentadienal | 3 g | ClC1=CC=C(C2=C1CCN(CC2)C)C=CC=CC=O | C16H18ClNO
